US07622480B2
Preparation of 5-[4-(1-furan-2-ylmethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)piperidin-1-ylmethyl]-2-methoxybenzoic acid
This compound was prepared following the procedure described in example 7, part G and H starting with 2.37 g (8.4 mmol) of 1-furan-2-ylmethyl-3-piperidin-4-yl-1H-pyrrolo[2,3-b]pyridine and 3 g (11 mmol) of 5-bromomethyl-2-methoxy-benzoic acid ethyl ester. After standard purification the overall yield was 76% (1.6 g).

reactant | 1-furan-2-ylmethyl-3-piperidin-4-yl-1H-pyrrolo[2,3-b]pyridine | 8.4 mmol, 2.37 g | O1C(=CC=C1)CN1C=C(C=2C1=NC=CC2)C2CCNCC2 | C17H19N3O
reactant | 5-bromomethyl-2-methoxy-benzoic acid ethyl ester | 11 mmol, 3 g | C(C)OC(C1=C(C=CC(=C1)CBr)OC)=O | C11H13BrO3
product | 5-[4-(1-furan-2-ylmethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)piperidin-1-ylmethyl]-2-methoxybenzoic acid | yield was 76% | O1C(=CC=C1)CN1C=C(C=2C1=NC=CC2)C2CCN(CC2)CC=2C=CC(=C(C(=O)O)C2)OC | C26H27N3O4
